US08217176B2
Production of 2-(4-{[(3-methoxy-1-methyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]quinolin-2-yl)carbonyl]amino}piperidin-1-yl)-2-oxoethyl acetate
To a solution of 3-methoxy-1-methyl-4-oxo-N-piperidin-4-yl-4,5-dihydro-1H-pyrrolo[3,2-c]quinoline-2-carboxamide (300 mg, 0.87 mmol) and triethylamine (88 mg, 0.87 mmol) in THF (30 mL) was added acetoxyacetyl chloride (119 mg, 0.87 mmol) under ice-cooling, and the mixture was stirred for 2 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated. The obtained solid was washed with diethyl ether-hexane to give the title compound (221 mg, 56%) as a white solid.

reactant | 3-methoxy-1-methyl-4-oxo-N-piperidin-4-yl-4,5-dihydro-1H-pyrrolo[3,2-c]quinoline-2-carboxamide | 0.87 mmol, 300 mg | COC1=C(N(C2=C1C(NC=1C=CC=CC21)=O)C)C(=O)NC2CCNCC2 | C19H22N4O3
reactant | triethylamine | 0.87 mmol, 88 mg | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 0.87 mmol, 119 mg | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-(4-{[(3-methoxy-1-methyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]quinolin-2-yl)carbonyl]amino}piperidin-1-yl)-2-oxoethyl acetate | 221 mg, 56% | C(C)(=O)OCC(=O)N1CCC(CC1)NC(=O)C1=C(C=2C(NC=3C=CC=CC3C2N1C)=O)OC | C23H26N4O6
